US05130321
A solution of 1,3-dicarbomethoxy-3-methyl-4-piperidone (51.45 g, 225 mmol) in hydrobromic acid (48%, 250 mL) is heated under reflux for 4 h and then cooled to room temperature. The resultant solution is concentrated in vacuo to give an orange colored solid. The solid is suspended in methanol (50 mL) and concentrated in vacuo again to give 3-methyl-4-piperidone hydrobromide salt: 42.9 g; 98%; mp 203°-205° C.

reactant | 1,3-dicarbomethoxy-3-methyl-4-piperidone | 225 mmol, 51.45 g | C(=O)(OC)N1CC(C(CC1)=O)(C)C(=O)OC | C10H15NO5
reactant | hydrobromic acid | 250 mL | Br | BrH
solvent | methanol | 50 mL | CO | CH4O
product | 3-methyl-4-piperidone hydrobromide salt | Br.CC1CNCCC1=O | InChI=1S/C6H11NO.BrH/c1-5-4-7-3-2-6(5)8;/h5,7H,2-4H2,1H3;1H
